* Open-Collector Comparator
* Marcos Alonso - May 2021
*
.subckt MyComparatorOC in+ in- pos col emit
E1 node 0 value={if(V(in+,in-)>0, 0, 1)}
R1 in+ in- 1e6
R2 pos 0   1e6
S1 emit col node 0 MySW
.model MySW SW (Ron=10m Roff=10meg Vt=0.5 Vh=-0.2)
.ends MyComparatorOC


